US07683064B2
3,5-Dibromo-1-methyl-1H-pyridin-2-one (469 mg, 1.76 mmol), 1-Methyl-1H-pyrazol-3-ylamine (205 mg, 2.1 mmol), tris(dibenzylidineacetone)dipalladium(0) (80 mg, 0.087 mmol), 2,2′-bis(diphenylphosphino-1,1′-binaphthalene (82 mg, 0.13 mmol), and cesium carbonate (801 mg, 2.46 mmol) were deposited in a sealed vial with 10 mL toluene. This was heated at 130° C. for 18 hours. The resulting mixture was poured into 50 mL water. This was extracted with ethylacetate. The ethylacetate layer was washed with brine, dried over anhydrous magnesium sulfate, filtered, concentrated in vacuo, and purified by flash chromatography (eluted with ethylacete/hexanes) to yield 5-Bromo-1-methyl-3-(1-methyl-1H-pyrazol-3-ylamino)-1H-pyridin-2-one (271 mg, 0.957 mmol). MS (ESI) 284.9 (M+H)+.

reactant | 3,5-Dibromo-1-methyl-1H-pyridin-2-one | 1.76 mmol, 469 mg | BrC=1C(N(C=C(C1)Br)C)=O | C6H5Br2NO
reactant | 1-Methyl-1H-pyrazol-3-ylamine | 2.1 mmol, 205 mg | CN1N=C(C=C1)N | C4H7N3
reactant | diphenylphosphino-1,1′-binaphthalene | 0.13 mmol, 82 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12 | C32H23P
reactant | cesium carbonate | 2.46 mmol, 801 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 50 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-1-methyl-3-(1-methyl-1H-pyrazol-3-ylamino)-1H-pyridin-2-one | 0.957 mmol, 271 mg | BrC=1C=C(C(N(C1)C)=O)NC1=NN(C=C1)C | C10H11BrN4O
